US06407096B1
Methyl (1-(2-hydroxyethyl)-2,3,4,5-tetrahydro-1H-1-benzazepin-6-yloxy)acetate
1-(2-hydroxyethyl)-6-hydroxy-2,3,4,5-tetrahydro-1H-1-benzazepine (52 mg) was dissolved in DMF (3 ml), and the resultant solution was stirred at room temperature. Potassium carbonate (122 mg) and methyl bromoacetate (0.035 ml) were added to the solution, and the mixture was stirred at room temperature. After disappearance of the raw materials was confirmed, water (20 ml) was added to the reaction solution, and the mixture was then extracted with ethyl acetate. The resultant organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and then concentrated. The resultant residue was purified by column chromatography (silica gel:hexane/ethyl acetate=2/1) to obtain the object compound (47 mg, yield 67%).

reactant | 1-(2-hydroxyethyl)-6-hydroxy-2,3,4,5-tetrahydro-1H-1-benzazepine | 52 mg | OCCN1CCCCC2=C1C=CC=C2O | C12H17NO2
reactant | Potassium carbonate | 122 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 0.035 ml | BrCC(=O)OC | C3H5BrO2
reactant | water | 20 ml | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | Methyl (1-(2-hydroxyethyl)-2,3,4,5-tetrahydro-1H-1-benzazepin-6-yloxy)acetate | 47 mg, yield 67% | OCCN1CCCCC2=C1C=CC=C2OCC(=O)OC | C15H21NO4
